US06943159B1
2-Acetamidophenylboronic acid:
A mixture of 2-aminophenylboronic acid (900 mg; 6.6 mmol), triethylamine (0.57 ml; 7 mmol) and acetylchloride (0.5 ml; 7 mmol) was stirred at rt. for 1 h. The reaction mixture was evaporated to dryness, stirred with H2O and filtered to give 750 mg (63%) product.

reactant | 2-aminophenylboronic acid | 6.6 mmol, 900 mg | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
reactant | triethylamine | 7 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 7 mmol, 0.5 ml | C(C)(=O)Cl | C2H3ClO
product | 2-Acetamidophenylboronic acid | 750 mg, 63% | C(C)(=O)NC1=C(C=CC=C1)B(O)O | C8H10BNO3
